US20010027196A1
4-Butoxy-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester, butanol and DBU in DME. EI-MS m/e (%): 278 (M+, 24), 249 ([M—C2H5]+, 28), 193 (70), 177 (100), 150 (48), 108 (86), 94 (62), 70 (48), 69 (46), 43 (68), 41 (62), 29 (45).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | butanol | C(CCC)O | C4H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-Butoxy-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine | C(CCC)OC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N | C12H14N4O4
